US08877801B2
To a solution of (E)-ethyl 3-(4-((6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophen-3-yl)amino)phenyl)acrylate (69.0 mg, 0.15 mmol) in DMF (6.0 mL) at room temperature was added NaH (60% suspension in oil, 139 mg, 3.48 mmol). After 15 min, methyl iodide (0.272 mL, 4.35 mmol) was added and the resulting solution was allowed to stir at room temperature for 45 min after which time the reaction was quenched with brine and diluted with water. The resulting solution was then extracted with EtOAc (3×) and the combined organic layers were washed with brine (2×), passed through a phase separator and concentrated in vacuo to afford the crude product which was purified by reverse phase HPLC (neutral condition, 3% 1-propanol in 1-100% CH3CN/H2O) to afford ((E)-ethyl 3-(4-((6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophen-3-yl)(methyl)amino)phenyl)acrylate (25.5 mg, 0.05 mmol, 36% yield) as a white solid. LC/MS (m/z, MH+): 474.3.

reactant | (E)-ethyl 3-(4-((6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophen-3-yl)amino)phenyl)acrylate | 0.15 mmol, 69.0 mg | COC=1C=CC2=C(SC(=C2NC2=CC=C(C=C2)/C=C/C(=O)OCC)C2=CC=C(C=C2)OC)C1 | C27H25NO4S
reactant | NaH | 3.48 mmol, 139 mg | [H-].[Na+]
reactant | methyl iodide | 4.35 mmol, 0.272 mL | CI | CH3I
solvent | DMF | 6.0 mL | CN(C)C=O | C3H7NO
product | (E)-ethyl 3-(4-((6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophen-3-yl)(methyl)amino)phenyl)acrylate | 0.05 mmol, 25.5 mg, 36% yield | COC=1C=CC2=C(SC(=C2N(C2=CC=C(C=C2)/C=C/C(=O)OCC)C)C2=CC=C(C=C2)OC)C1 | C28H27NO4S
